US04693992
Preparation of Bacitracin-Manganese-Lysocellin Complex
A solution of 6.5 g of manganese lysocellin, prepared as described in Example D above, in 60 ml of methanol was stirred while 7.0 g bacitracin (reg) was added. The solution was stirred at room temperature for four hours. Stirring was continued and water was added slowly to precipitate a tacky semi-solid. The solids were isolated by decantation and washed with fresh water to obtain a filtrable amorphous solid. The solids were isolated, washed with water and dried. The crude product was slurried with toluene (10 ml/g) to obtain an amorphous product.

reactant | manganese lysocellin | 6.5 g | [Mn].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O
reactant | bacitracin | 7.0 g | CC[C@H](C)[C@H]1C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)NCCCC[C@@H](C(=O)N[C@@H](C(=O)N1)CCCN)NC(=O)[C@H]([C@@H](C)CC)NC(=O)[C@@H](CCC(=O)O)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H]2CSC(=N2)[C@H]([C@@H](C)CC)N)CC(=O)N)CC(=O)O)CC3=CN=CN3)CC=4C=CC=CC4 | C66H103N17O16S
reactant | water | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | Bacitracin Manganese Lysocellin | CC[C@H](C)[C@H]1C(=O)N[C@@H](C(=O)N[C@H](C(=O)N[C@@H](C(=O)N[C@H](C(=O)NCCCC[C@@H](C(=O)N[C@@H](C(=O)N1)CCCN)NC(=O)[C@H]([C@@H](C)CC)NC(=O)[C@@H](CCC(=O)O)NC(=O)[C@H](CC(C)C)NC(=O)[C@@H]2CSC(=N2)[C@H]([C@@H](C)CC)N)CC(=O)N)CC(=O)O)CC3=CN=CN3)CC=4C=CC=CC4.[Mn].CC[C@H]([C@@H]1[C@H](C[C@@](O1)(C)[C@]2([C@@H](C[C@@](O2)(CC)[C@H](CC)O)C)O)C)C(=O)[C@@H](C)[C@H]([C@@H](C)[C@@H]3[C@H](C[C@H]([C@@H](O3)CC(=O)OO)C)C)O | InChI=1S/C66H103N17O16S.C34H60O10.Mn/c1-9-35(6)52(69)66-81-48(32-100-66)63(97)76-43(26-34(4)5)59(93)74-42(22-23-50(85)86)58(92)83-53(36(7)10-2)64(98)75-40-20-15-16-25-71-55(89)46(29-49(68)84)78-62(96)47(30-51(87)88)79-61(95)45(28-39-31-70-33-72-39)77-60(94)44(27-38-18-13-12-14-19-38)80-65(99)54(37(8)11-3)82-57(91)41(21-17-24-67)73-56(40)90;1-11-24(29(38)22(8)28(37)23(9)30-19(5)14-18(4)25(41-30)15-27(36)43-40)31-20(6)16-32(10,42-31)34(39)21(7)17-33(13-3,44-34)26(35)12-2;/h12-14,18-19,31,33-37,40-48,52-54H,9-11,15-17,20-30,32,67,69H2,1-8H3,(H2,68,84)(H,70,72)(H,71,89)(H,73,90)(H,74,93)(H,75,98)(H,76,97)(H,77,94)(H,78,96)(H,79,95)(H,80,99)(H,82,91)(H,83,92)(H,85,86)(H,87,88);18-26,28,30-31,35,37,39-40H,11-17H2,1-10H3;/t35-,36-,37-,40-,41+,42+,43-,44+,45-,46-,47+,48-,52-,53-,54-;18-,19+,20+,21-,22+,23-,24+,25+,26+,28-,30+,31+,32+,33+,34-;/m01./s1
